US08076487B2
1,2-dihydro-6-hydroxymethyl-2-oxo-1-phenylpyridine-3-carboxylic acid ethyl ester (5.0 g, 18 mmol) was dissolved in dichloromethane (50 mL), and a DMP reagent (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one) (8.5 g, 20 mol) was added thereto at room temperature. The mixture was allowed to react for 4 hours. The reaction mixture was poured into an aqueous sodium bicarbonate solution, and extracted with chloroform. The organic layer was washed with water, dried, and concentrated, to obtain crude 6-formyl-1-phenyl-1,2-dihydro-2-oxopyridine-3-carboxylic acid ethyl ester. This crude product was dissolved in dichloromethane (50 mL), and a DAST reagent (diethylamino sulfur trifluoride) (4.8 g, 30 mmol) was added to this solution at 5° C. under a nitrogen atmosphere. The mixture was allowed to react overnight at room temperature. The reaction mixture was poured into water, and the organic layer was washed with an aqueous sodium bicarbonate solution and water, dried, and concentrated. Thus obtained residue was purified by column chromatography (elution solvent: hexane/ethyl acetate: 4/1 to 3/2), and thus obtained solid was washed with a mixed solution of hexane/ethyl acetate=1/1, to obtain 2.29 g of a desired product (yield: 57%, two stages).

reactant | 1,2-dihydro-6-hydroxymethyl-2-oxo-1-phenylpyridine-3-carboxylic acid ethyl ester | 18 mmol, 5.0 g | C(C)OC(=O)C=1C(N(C(=CC1)CO)C1=CC=CC=C1)=O | C15H15NO4
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-formyl-1-phenyl-1,2-dihydro-2-oxopyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C(=CC1)C=O)C1=CC=CC=C1)=O | C15H13NO4
